US04707488
E: 3-(3,5-Difluorophenyl)propyl azide
Tosyl chloride (0.0814 mol) was added to a cooled (0°) solution of 3-(3,5-difluorophenyl)propanol (0.0407 mol) in pyridine (75 ml). The reaction was stirred 2 hours at 25°, then it was poured into ice/water and extracted into ethyl ether. The ethereal extracts were washed with 3N aqueous hydrogen chloride and water, then were dried over sodium sulfate and concentrated. The residue was dissolved in dimethylformamide (75 ml) and sodium azide (0.0814 mol) was added. The reaction was stirred 8 hours, then was diluted with water and extracted into ethyl acetate. The organic extract was washed with 3N aqueous hydrogen chloride and water, then dried over sodium sulfate and concentrated to yield 6.7 g (64%) of an oily product.

reactant | Tosyl chloride | 0.0814 mol | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | 3-(3,5-difluorophenyl)propanol | 0.0407 mol | FC=1C=C(C=C(C1)F)CCCO | C9H10F2O
reactant | sodium azide | 0.0814 mol | [N-]=[N+]=[N-].[Na+]
solvent | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | 3-(3,5-Difluorophenyl)propyl azide | 6.7 g, 64% | FC=1C=C(C=C(C1)F)CCCN=[N+]=[N-] | C9H9F2N3
